US08309580B2
(3) 3-[chloro(cyclohexyl)methyl]-2-methyl-5-[4-(trifluoromethyl)phenyl]thiophene
To a solution of cyclohexyl{2-methyl-5-[4-(trifluoromethyl)phenyl]thiophen-3-yl}methanol (1.20 g) synthesized above in toluene (20 mL) was added thionyl chloride (297 μL), and the mixture was stirred at room temperature for 3 hr. The reaction mixture was poured into ice-cooled saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure to give the title compound (1.27 g, quantitative) as a pale-yellow solid.

reactant | cyclohexyl{2-methyl-5-[4-(trifluoromethyl)phenyl]thiophen-3-yl}methanol | 1.20 g | C1(CCCCC1)C(O)C1=C(SC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C19H21F3OS
reactant | thionyl chloride | 297 μL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[chloro(cyclohexyl)methyl]-2-methyl-5-[4-(trifluoromethyl)phenyl]thiophene | 1.27 g | ClC(C1=C(SC(=C1)C1=CC=C(C=C1)C(F)(F)F)C)C1CCCCC1 | C19H20ClF3S
